US08183255B2
Intermediate L5(i): ethyl 1-(3,3,3-trifluoropropyl)piperidine-4-carboxylate
To a solution of ethyl isonipecotate (3.00 g, 19.1 mmol) in THF (20 mL) and MeOH (20 mL) was added 3,3,3-trifluoropropionaldehyde (2.14 g, 19.1 mmol) and AcOH (1.09 mL, 19.1 mmol) followed by sodium cyanoborohydride (1.20 g, 19.1 mmol). The reaction was allowed to stir for 10 min., at which time the reaction was quenched with water (15 mL) then made basic with NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried and concentrated in vacuo to yield a white powder (3.3 g, 68%). Mass Spectrum: Calcd for C11H19NF3O2 (M+H): 254. Found: 254.

reactant | ethyl isonipecotate | 19.1 mmol, 3.00 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 3,3,3-trifluoropropionaldehyde | 19.1 mmol, 2.14 g | FC(CC=O)(F)F | C3H3F3O
reactant | AcOH | 19.1 mmol, 1.09 mL | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 19.1 mmol, 1.20 g | C(#N)[BH3-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
product | ethyl 1-(3,3,3-trifluoropropyl)piperidine-4-carboxylate | 3.3 g, 68% | FC(CCN1CCC(CC1)C(=O)OCC)(F)F | C11H18F3NO2
